US05143923
N-[4-(1-(2-Methoxyphenyl)-4-piperazinyl)-2-butynyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride
A mixture of 1,2-benzisothiazole-3-carboxylic acid chloride (2.0 g) and 1-(2-methoxyphenyl)-4-(4-amino-2-butynyl)piperazine (2.63 g) in dichloromethane (100 ml), was stirred while triethylamine (2.83 ml) was added dropwise. Stirring was continued overnight. After 24 hr, the reaction mixture was diluted with water and extracted with dichloromethane. The organic phase was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica using ethyl acetate as the eluent. The appropriate fractions were collected and concentrated. The residue was taken up in ether/dichloromethane. Ethereal hydrogen chloride was added. The precipitate was recrystallized from methanol/dichloromethane/ether to provide 2.27 g (45.7%) of product, mp 162°-164° C.

reactant | 1,2-benzisothiazole-3-carboxylic acid chloride | 2.0 g | S1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
reactant | 1-(2-methoxyphenyl)-4-(4-amino-2-butynyl)piperazine | 2.63 g | COC1=C(C=CC=C1)N1CCN(CC1)CC#CCN | C15H21N3O
reactant | triethylamine | 2.83 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[4-(1-(2-Methoxyphenyl)-4-piperazinyl)-2-butynyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride | 2.27 g, 45.7% | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CC#CCNC(=O)C1=NSC2=C1C=CC=C2 | InChI=1S/C23H24N4O2S.2ClH/c1-29-20-10-4-3-9-19(20)27-16-14-26(15-17-27)13-7-6-12-24-23(28)22-18-8-2-5-11-21(18)30-25-22;;/h2-5,8-11H,12-17H2,1H3,(H,24,28);2*1H
